US08802673B2
(R)-tert-Butyl 2-(4-(6-trifluoromethylpyrimidin-4-ylamino)phenyl)morpholine-4-carboxylate (130 mg, 0.3 mmol) was dissolved in dioxane (1.2 ml) and a solution of HCl in dioxane (4 M, 1.15 ml, 4.59 mmol) was added. The reaction mixture was stirred at 60° C. for 2 hours. After cooling ether (2 ml) was added and the solid was filtered off. It was washed with ether and dried in vacuo to afford (R)—N-(4-(morpholin-2-yl)phenyl)-6-(trifluoromethyl)pyrimidin-4-amine hydrochloride (96 mg, 87%) as a light yellow solid. MS (ISP): 325.2 ([M+H]+).

reactant | (R)-tert-Butyl 2-(4-(6-trifluoromethylpyrimidin-4-ylamino)phenyl)morpholine-4-carboxylate | 0.3 mmol, 130 mg | FC(C1=CC(=NC=N1)NC1=CC=C(C=C1)[C@@H]1CN(CCO1)C(=O)OC(C)(C)C)(F)F | C20H23F3N4O3
reactant | HCl | Cl | ClH
reactant | ether | 2 ml | CCOCC | C4H10O
solvent | dioxane | 1.2 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 4.59 mmol, 4 M, 1.15 ml | O1CCOCC1 | C4H8O2
product | (R)—N-(4-(morpholin-2-yl)phenyl)-6-(trifluoromethyl)pyrimidin-4-amine hydrochloride | 96 mg, 87% | Cl.N1C[C@H](OCC1)C1=CC=C(C=C1)NC1=NC=NC(=C1)C(F)(F)F | InChI=1S/C15H15F3N4O.ClH/c16-15(17,18)13-7-14(21-9-20-13)22-11-3-1-10(2-4-11)12-8-19-5-6-23-12;/h1-4,7,9,12,19H,5-6,8H2,(H,20,21,22);1H/t12-;/m0./s1
